US06028081
Dissolved in 30 ml of tetrahydrofuran were 0.352 g (1 mmol) of ethyl 4-(2-hydroxyethylamino)-2-oxo-1-phenyl-1,2-dihydroquinoline-3-carboxylate, 0.67 g (2 mmol) of carbon tetrabromide and 0.531 g (2 mmol) of triphenylphosphine, followed by a reaction at room temperature for 5 hours. The insoluble matter was filtered off, and the organic layer was concentrated under reduced pressure. The resulting residue was purified by chromatography on a silica gel column and then recrystallized from ethyl acetate/isopropyl ether, whereby 0.31 g of ethyl 4-(2-bromoethylamino)-2-oxo-1-phenyl-1,2-dihydroquinoline-3-carboxylate was obtained (yield: 74.7%).

reactant | ethyl 4-(2-hydroxyethylamino)-2-oxo-1-phenyl-1,2-dihydroquinoline-3-carboxylate | 1 mmol, 0.352 g | OCCNC1=C(C(N(C2=CC=CC=C12)C1=CC=CC=C1)=O)C(=O)OCC | C20H20N2O4
reactant | carbon tetrabromide | 2 mmol, 0.67 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 2 mmol, 0.531 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | ethyl 4-(2-bromoethylamino)-2-oxo-1-phenyl-1,2-dihydroquinoline-3-carboxylate | 0.31 g, yield: 74.7% | BrCCNC1=C(C(N(C2=CC=CC=C12)C1=CC=CC=C1)=O)C(=O)OCC | C20H19BrN2O3
